US06511974B1
[4-(4-Methyl-imidazol-1-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]-benzodiazepin-10-yl)-methanone
The 4-(4-methylimidazol-1-yl)benzoyl chloride (0.99 g) was added to an ice-cooled solution of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine (0.64 g) and diisopropylethylamine (0.60 g) in dichloromethane (25 ml). After stirring at room temperature for 18 hours, the reaction mixture was washed with water and saturated aqueous sodium bicarbonate. The dichloromethane solution was dried over anhydrous sodium sulfate, filtered through a short column of hydrous sodium magnesium silicate, and further eluted with several volumes of dichloromethane. The combined organic phase was concentrated on a hot plate with the gradual addition of hexane until crystallization occurred. After cooling, the title compound (0.52 g) was obtained as a solid, m.p. 140-145° C.; MS, m/z: 369 (M+H)+.

reactant | 4-(4-methylimidazol-1-yl)benzoyl chloride | 0.99 g | CC=1N=CN(C1)C1=CC=C(C(=O)Cl)C=C1 | C11H9ClN2O
reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.64 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | diisopropylethylamine | 0.60 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | [4-(4-Methyl-imidazol-1-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]-benzodiazepin-10-yl)-methanone | 0.52 g | CC=1N=CN(C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C23H20N4O
